US04846882
By the method of Example 3, Step C, 1.0 g (0.0034 mole) of N-methyl-N-(2-chloro-4-fluoro-5-nitrobenzyl)methylsulfonamide was hydrogenated in the presence of 0.3 g of platinum oxide in 90 ml of glacial acetic acid, yielding 0.75 g of N-methyl-N-(2-chloro-4-fluoro-5aminobenzyl)methylsulfonamide as a yellow-tan solid, m.p. 108°-109° C. The nmr spectrum was consistent with the proposed structure.

reactant | N-methyl-N-(2-chloro-4-fluoro-5-nitrobenzyl)methylsulfonamide | 0.0034 mole, 1.0 g | CN(S(=O)=O)CCC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C9H10ClFN2O4S
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.3 g | [Pt]=O
product | N-methyl-N-(2-chloro-4-fluoro-5aminobenzyl)methylsulfonamide | 0.75 g | CN(S(=O)=O)CCC1=C(C=C(C(=C1)N)F)Cl | C9H12ClFN2O2S
